US08309546B2
5-{8-[(3R)-3-Methylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine
An N-methyl-2-pyrrolidone suspension (24 ml) of 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (2.42 g, 5.82 mmol) and (2R)-2-methylpiperazine (2.92 g, 29.1 mmol) was heated at 120° C. to dissolve and the resulting mixture was stirred at 100° C. for 6 hours. The resulting mixture was left standing to cool, then poured into methylene chloride-methanol (10:1), and washed with water. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by medium pressure silica gel column chromatography (methylene chloride:methanol=32:1 to 9:1) to give the title compound (2.51 g, 90%) as a pale yellow solid.

reactant | N-methyl-2-pyrrolidone | 24 ml | CN1C(CCC1)=O | C5H9NO
reactant | 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 5.82 mmol, 2.42 g | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C15H14ClF3N8O
reactant | (2R)-2-methylpiperazine | 29.1 mmol, 2.92 g | C[C@H]1NCCNC1 | C5H12N2
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 5-{8-[(3R)-3-Methylpiperazin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 2.51 g, 90% | C[C@@H]1CN(CCN1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C20H25F3N10O
